US07049438B2
Using an analogous procedure to those described in Note [39] immediately above, (2S)-2-methoxymethylpyrrolidine was reacted with 2-bromoethanol to give (2S)-1-(2-hydroxyethyl)-2-methoxymethylpyrrolidine; NMR Spectrum: (CDCl3) 1.5–1.65 (m, 1H), 1.65–1.8 (m, 2H), 1.8–2.0 (m, 2H), 2.3 (m, 1H), 2.6 (m, 1H), 2.8 (m, 1H), 2.95–3.05 (m, 1H), 3.17 (m, 1H), 3.3 (t, 1H, 3.35 (t, 1H), 3.37 (s, 3H), 3.5–3.7 (m, 2H).

reactant | (2S)-2-methoxymethylpyrrolidine | COC[C@H]1NCCC1 | C6H13NO
reactant | 2-bromoethanol | BrCCO | C2H5BrO
product | (2S)-1-(2-hydroxyethyl)-2-methoxymethylpyrrolidine | OCCN1[C@@H](CCC1)COC | C8H17NO2
